US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(N,N-dimethylaminophenyl)carboxamide [67]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (51 mg) and commercially available 4-(dimethylamino)benzoic acid (44 mg) were dissolved in N,N-dimethylformamide (2 ml), 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride (83 mg) was added, and the admixture was stirred at room temperature for 16 hours. The reaction mixture was then purified in the same manner as described in Example 51 to obtain 7 mg of the title compound (yield: 10%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 51 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-(dimethylamino)benzoic acid | 44 mg | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | 1-ethyl-3-(3'-dimethylaminopropyl)carbodiimide hydrochloride | 83 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(N,N-dimethylaminophenyl)carboxamide | 7 mg, yield: 10% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)N(C)C | C26H25N3O4
